US07795288B2
4-Methoxy-1-nitro-2-trifluoromethyl-benzene
A mixture of 5-chloro-2-nitrobenzotrifluoride (5 g, 22.2 mmol) and 0.5M NaOMe (in MeOH) is stirred for 15 h at reflux. After removal of the solvent, the residue is diluted with H2O (40 mL) and extracted with CH2Cl2 (3×150 mL). The organic phase is washed with H2O (30 mL), and brine (30 mL), dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound: ES-MS: 221.0 [M]−; single peak at tR=4.72 min (System 2).

reactant | 5-chloro-2-nitrobenzotrifluoride | 22.2 mmol, 5 g | ClC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | NaOMe | 0.5M | C[O-].[Na+]
product | 4-Methoxy-1-nitro-2-trifluoromethyl-benzene | COC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C8H6F3NO3
